US06441023B1
2-(4-Methoxy-phenylsulfanyl)-hexanoic acid ethyl ester was prepared according to the general method as outlined in Example 1. Starting from ethyl 2-bromo,hexanoate (7 g, 32 mmol) and 4-methoxybenzenethiol (4.2 g, 30 mmol), 8.3 g of the product was isolated. Yield 98%; Light yellow oil; MS: 283 (M+H)+.

reactant | ethyl 2-bromo,hexanoate | 32 mmol, 7 g | BrC(C(=O)OCC)CCCC | C8H15BrO2
reactant | 4-methoxybenzenethiol | 30 mmol, 4.2 g | COC1=CC=C(C=C1)S | C7H8OS
product | 2-(4-Methoxy-phenylsulfanyl)-hexanoic acid ethyl ester | Yield 98% | C(C)OC(C(CCCC)SC1=CC=C(C=C1)OC)=O | C15H22O3S
